US04855086
Cuprous iodide (0.4 g, 2.1 mmol) and bis-triphenylphosphine palladium (II) chloride (0.8 g, 1.14 mmol) were added to a solution of pent-4-yn-1-ol (16 g, 193 mmol) (Jones, Eglinton, and Whiting, Org. Syn. Coll., 4, 755, (1963)) and E-styryl bromide (34.34 g, 188 mmol) (Feurerstein and Heimann, Ber., 34, 1468 (1901)) in anhydrous diethylamine (250 m). The whole was stirred under an atmosphere of dry nitrogen with the exclusion of moisture and light for 16 hours. The diethylamine was removed at reduced pressure and the residue diluted with water (500 ml). The aqueous mixture was extracted with ether. The ethereal extracts were passed down a column composed of silica (100 g), Celite (trade name, from Koch-light Ltd) (100 g) and activated charcoal (20 g) at 3 psi (21 KPa) pressure. The column was washed with ether (200 ml) and the combined organic extracts dried over anhydrous magensium sulphate. Removal of solvents gave 30.5 g of 7-phenyl-hept-4-yn-6E-en-1-ol as a pale brown oil. The material was not purified further.

reactant | pent-4-yn-1-ol | 193 mmol, 16 g | C(CCC#C)O | C5H8O
reactant | E-styryl bromide | 188 mmol, 34.34 g | C(=C\C1=CC=CC=C1)/Br | C8H7Br
solvent | diethylamine | C(C)NCC | C4H11N
product | 7-phenyl-hept-4-yn-6E-en-1-ol | 30.5 g | C1(=CC=CC=C1)/C=C/C#CCCCO | C13H14O
